US07919528B2
2-Hydrazino-4-methylpyrimidine
To a solution of 2-chloro-4-methylpyrimidine (6.06 g, 47.1 mmol) in MeOH (40 mL) was added hydrazine monohydrate (10 mL, 206 mmol). The solution was stirred for 16 h at room temperature and then purified by reverse phase HPLC to provide 4.43 g of the title compound. (76%) as a white solid. MH+125.

reactant | 2-chloro-4-methylpyrimidine | 47.1 mmol, 6.06 g | ClC1=NC=CC(=N1)C | C5H5ClN2
reactant | hydrazine monohydrate | 206 mmol, 10 mL | O.NN
solvent | MeOH | 40 mL | CO | CH4O
product | 2-Hydrazino-4-methylpyrimidine | 4.43 g | N(N)C1=NC=CC(=N1)C | C5H8N4
